US05804585
D. N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzoyl]thieno [2,3-b]pyridine-3-sulfonamide
A solution of N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzoyl]thieno[2,3-b]pyridine-3-sulfonamide (0.15 g, 0.26 mmoles) in methanol (5 ml) and 4N HCl (2 ml) was heated to reflux for 3 hours then cooled to ambient temperature and concentrated. The residue was diluted with EtOAc (50 ml) and washed with saturated NaCl (2×50 ml). The organic layer was dried (MgSO4), filtered and concentrated to collect 0.10 g (81%) of the title compound as a foamy yellow solid, m.p. 75°-90° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzoyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.26 mmoles, 0.15 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=CC1=C(C=C2)OCO1)=O)COCCOC)C | C23H20ClN3O8S2
solvent | methanol | 5 ml | CO | CH4O
solvent | HCl | 4N, 2 ml | Cl | ClH
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzoyl]thieno [2,3-b]pyridine-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=CC1=C(C=C2)OCO1)=O)C | C19H12ClN3O6S2
